US07196100B2
6-(Piperidin-4-yloxy)-nicotinamide hydrochloride
Combine 4-(5-carbamoyl-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (1559 mg, 4.85 mmol) in tetrahydrofuran (25 mL) with hydrochloric acid (4.0 M in dioxane, 15 mL). Stir the resulting reaction mixture for 48 h. Filter the white precipitate washing with EtOAc (10 mL). Redissolve the white solid in methanol and concentrate to provide the title compound (1195 mg, 89%).

reactant | 4-(5-carbamoyl-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 4.85 mmol, 1559 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=C1)C(N)=O | C16H23N3O4
reactant | hydrochloric acid | 4.0 M, 15 mL | Cl | ClH
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 6-(Piperidin-4-yloxy)-nicotinamide hydrochloride | 1195 mg, 89% | Cl.N1CCC(CC1)OC1=NC=C(C(=O)N)C=C1 | InChI=1S/C11H15N3O2.ClH/c12-11(15)8-1-2-10(14-7-8)16-9-3-5-13-6-4-9;/h1-2,7,9,13H,3-6H2,(H2,12,15);1H
